US05506089
By the procedure described in Ex. 8, 4-styrylpyridine and 2,2-diethoxyethyl bromide were reacted to obtain N-(2,2-diethoxyethyl)-4-styrylpyridinium bromide.

reactant | 4-styrylpyridine | C(=CC1=CC=CC=C1)C1=CC=NC=C1 | C13H11N
reactant | 2,2-diethoxyethyl bromide | C(C)OC(CBr)OCC | C6H13BrO2
product | N-(2,2-diethoxyethyl)-4-styrylpyridinium bromide | [Br-].C(C)OC(C[N+]1=CC=C(C=C1)C=CC1=CC=CC=C1)OCC | InChI=1S/C19H24NO2.BrH/c1-3-21-19(22-4-2)16-20-14-12-18(13-15-20)11-10-17-8-6-5-7-9-17;/h5-15,19H,3-4,16H2,1-2H3;1H/q+1;/p-1
